US07919506B2
Step H: Preparation of N-(2-(cyclohexyl(methoxy)methyl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2-(2-(tert-butyldimethylsilyloxy)ethyl)-2H-tetrazol-5-amine
To a mixture of N-(2-(cyclohexyl(methoxy)methyl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2H-tetrazol-5-amine (40.4 mg, 0.068 mmol) and (2-bromoethoxy)(tert-butyl)dimethylsilane (25 mg, 22 μL, 0.10 mmol) in 2-MeTHF/DMF was added sodium carbonate (29.1 mg, 0.275 mmol). The slurry was stirred at 60° C. overnight. The reaction was diluted and filtered. The filtrate was concentrated and the residue was purified by chromatography over 12+S Biotage silica column (eluted with 0-20% ethyl acetate in heptane) to afford the title compound (39.3 mg, 77%). 1H NMR (400 MHz, CDCl3) δ ppm 0.08 (s, 6H) 0.80 (s, 9H) 0.92-1.12 (m, 5H) 1.15-1.21 (m, 1H) 1.42-1.52 (m, 1H) 1.57-1.62 (m, 2H) 1.68-1.72 (m, J=2.90 Hz, 1H) 1.89 (d, J=12.44 Hz, 1H) 3.03 (s, 3H) 4.05-4.09 (m, 3H) 4.54 (t, J=5.60 Hz, 2H) 4.64-4.76 (m, 3H) 4.89 (d, J=16.17 Hz, 1H) 7.35 (s, 1H) 7.47 (d, J=7.88 Hz, 1H) 7.54 (d, J=9.12 Hz, 1H) 7.65 (s, 2H) 7.75 (s, 1H). MS (ES+) Calc: 753.3, Found: 754.6 (M+1).

reactant | N-(2-(cyclohexyl(methoxy)methyl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2H-tetrazol-5-amine | 0.068 mmol, 40.4 mg | C1(CCCCC1)C(C1=C(CN(C=2N=NNN2)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F)OC | C26H26F9N5O
reactant | (2-bromoethoxy)(tert-butyl)dimethylsilane | 0.10 mmol, 22 μL, 25 mg | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | sodium carbonate | 0.275 mmol, 29.1 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 2-MeTHF DMF | CC1CCCO1.CN(C)C=O
product | N-(2-(cyclohexyl(methoxy)methyl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2-(2-(tert-butyldimethylsilyloxy)ethyl)-2H-tetrazol-5-amine | 39.3 mg, 77% | C1(CCCCC1)C(C1=C(CN(C=2N=NN(N2)CCO[Si](C)(C)C(C)(C)C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F)OC | C34H44F9N5O2Si
